datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[Si:62](C)(C)[C:11](=[CH2:10])[O:12]C1=CC=CC=C1.FC(F)(F)[S:20][N:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:42](C1=CC=CC=C1)(=[O:43])=[O:44]>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.C[Si:62](C)(C)[C:11]([CH2:10][S:20]C(F)(F)F)=[O+:12]C1=CC=CC=C1 10,11=10,20;12=11,12;20,21=21"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2.COC1=CC=C([C:61]([CH:10]=[S:11](C)C)=[O:62])C=C1>>COC1=CC=C([C:61]([CH:10]([S+:11](C)C)[CH:20]([CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C23CCCC3)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:62])C=C1 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1.[H][C:11]1([H:10])[CH:12]=[CH:13][N:14](C2=CC=C(OC)C=C2)[CH:63]=[C:62]1C(N)=O>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1.[H][C:11]1=[CH:12][CH:13]=[N+:14](C2=CC=C(OC)C=C2)[CH:63]=[C:62]1C(N)=O 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[S:42](=[O:43])(=[O:44])[C:21](=[CH:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1)[S:32]2(=[O:33])=[O:34].O=C(C1=CC=CC=C1)[CH-:10][N+:61]1=[CH:62][CH:63]=[CH:64][C:71]2=[C:72]1C=CC=C2>>O=C(C1=CC=CC=C1)[CH:10]([CH:20]([C-:21]1[S:32](=[O:33])(=[O:34])C2=C(C=CC=C2)[S:42]1(=[O:43])=[O:44])[C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1)[N+:61]1=[CH:62][CH:63]=[CH:64][C:71]2=[C:72]1C=CC=C2 10=20;20,21=21"
C[Si](C)(C)[N:62]1[CH:61]=[N:10][CH:64]=[CH:63]1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>C[Si](C)(C)[N:62]1[CH:61]=[N+:10]([CH:20]([C:31]2=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]2)[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)[CH:64]=[CH:63]1 10=20
"CC[O:72]/[C:11](=[CH:10]/[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)[O-:12].CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC[O:72][C:11]([CH:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N(C)CC(F)(F)F)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]1)[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)=[O:12] 10,11=10,20;12=11,12"
"C1=CC=C(CC2C[O:72][C:61](=[O:62])[N-:10]2)C=C1.C1C[CH:20]=[CH:21][C:22](=[O:23])C1>>C1=CC=C(CC2C[O:72][C:61](=[O:62])[N:10]2[CH:20]2CCC[C:22]([O-:23])=[CH:21]2)C=C1 10=20;20,21=21,22;22,23=23"
Br[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.C[OH:10]>>C[OH+:10][CH:20]([C:31]1=[CH:32][CH:33]=[C:34](Br)[CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]1 10=20
"C1=CC=C([N:21]=[C:20]=[N:31]C2=CC=CC=C2)C=C1.C[N:14](C)[C:13]1=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]1>>C[N+:14](C)=[C:13]1[CH:12]=[CH:11][N:10]([C:20]([N-:21]C2=CC=CC=C2)=[N:31]C2=CC=CC=C2)[CH:61]=[CH:62]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2.C[Si](C)(C)[C:13]1=[CH:12][CH:11]=[CH:10][O:14]1>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH:10]2[CH:11]=[CH:12][C:13]([Si](C)(C)C)=[O+:14]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
CC1(C)C[C:61](=[O:62])[CH-:10][C:71](=[O:72])C1.[C+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1>>CC1(C)C[C:61](=[O:62])[CH:10]([C:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[C:71](=[O:72])C1 10=20
"CO[C-:10]([S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[S:81](C1=CC=CC=C1)(=[O:82])=[O:92].Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1>>CO[C:10]([Cl:20])([S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[S:81](C1=CC=CC=C1)(=[O:82])=[O:92].Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1 10=20;20,21=21,22;22,23=23"
"CC[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]CC)=[O:23].CO[C:64]1=[CH:63][CH:62]=[C:61]([NH2:10])[CH:72]=[CH:73]1>>CC[O:33][C:22](=[N:21][N:20]([NH2+:10][C:61]1=[CH:62][CH:63]=[C:64](OC)[CH:73]=[CH:72]1)[C:41](=[O:42])[O:43]CC)[O-:23] 10=20;20,21=21,22;22,23=23"
"C1C[C:20](=[O:21])CCO1.CC1=CC=[C:10]([B-:11]2(C3=CC=C(N(C)C)C=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1>>CC1=CC=[C:10]([C:20]2([O-:21])CCOCC2)S1.CN(C)C1=CC=C([B-:11]2=[O+:12]C(C)(C)C(C)(C)[O:62]2)C=C1 10,11=10,20;12=11,12;20,21=21"
